US09376449B2
To a mixture of 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-5-methoxy-1H-indole-2-carboxylic acid (500 mg), diisopropylethylamine (1.28 mL), methylamine hydrochloride (303 mg), and N,N-dimethyl formamide (10.0 mL) was added 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (853 mg), followed by stirring at room temperature overnight. To the mixture was added ice water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 20:1) to obtain tert-butyl {2-[5-methoxy-2-(methylcarbamoyl)-1H-indol-3-yl]ethyl}carbamate (520 mg) as a white solid.

reactant | 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-5-methoxy-1H-indole-2-carboxylic acid | 500 mg | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)O | C17H22N2O5
reactant | diisopropylethylamine | 1.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 303 mg | Cl.CN
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 853 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 10.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl {2-[5-methoxy-2-(methylcarbamoyl)-1H-indol-3-yl]ethyl}carbamate | 520 mg | COC=1C=C2C(=C(NC2=CC1)C(NC)=O)CCNC(OC(C)(C)C)=O | C18H25N3O4
